US08471005B2
[7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyridin-3-yl-phenyl)-amine was prepared from 7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 4-pyridin-3-yl-phenylamine in an analogous manner to Example 1052a. Product isolated as a yellow foam (37 mg, 28%). LCMS (m/e) 442 (M+H); 1H-NMR (d6-DMSO, 400 MHz) δ 9.82 (s, 1H), 9.10 (s, 1H), 8.94 (s, 1H), 8.58-8.46 (m, 3H), 8.17-8.05 (m, 3H), 7.90 (d, 2H, J=7.9 Hz), 7.76 (d, 2H, J=7.9 Hz), 7.54-7.44 (m, 1H), 7.44-7.35 (m, 1H), 7.09-7.01 (m, 1H), 2.50 (s, 3H).

reactant | 7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O3S
reactant | 4-pyridin-3-yl-phenylamine | N1=CC(=CC=C1)C1=CC=C(C=C1)N | C11H10N2
product | [7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyridin-3-yl-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C=2C=NC=CC2 | C24H19N5O2S
